US07727979B2
In an argon-charged flask, 2M sodium carbonate (4.8 mmol), 1,2-dimethoxyethane (8 ml), 4-fluorophenylboric acid (2.8 mmol), lithium chloride (6 mmol), 1,4-dioxaspiro[4.5]dec-7-en-8-yl-trifluormethane-sulphonic acid ester (2 mmol) and tetrakis(triphenyl-phosphine)palladium (0.1 mmol) are combined and stirred overnight at 80° C. The reaction mixture is concentrated in a vacuum and the residue is dispersed in dichloromethane/2M aqueous sodium carbonate solution. The aqueous phase is extracted with dichloromethane. The combined organic phases are then dried over sodium sulphate and the solvent is evaporated off in a vacuum. From the residue, after column chromatography using silica gel (ethyl acetate/heptane 1:4), pure 8-(4-fluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene is isolated (Synthesis 1993, 735-762): tR 3.61 min (LC-1); ESI-MS(+): m/z 235.34 [M+H]+. 1H NMR (ppm,CDCl3): 7.35 (2H); 6.95 (2H); 5.9 (1H); 4.05 (4H); 2.65 (2H); 2.45 (2H); 1.9 (2H).

reactant | sodium carbonate | 4.8 mmol, 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenylboric acid | 2.8 mmol | FC1=CC=C(C=C1)OB(O)O | C6H6BFO3
reactant | lithium chloride | 6 mmol | [Cl-].[Li+]
reactant | 1,2-dimethoxyethane | 8 ml | COCCOC | C4H10O2
product | 8-(4-fluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene | FC1=CC=C(C=C1)C1=CCC2(OCCO2)CC1 | C14H15FO2
